US08084620B2
Step 2 A stirred suspension of 4-bromo-2-hydrazinylbenzoic acid hydrochloric acid salt (16.35 g, 58.1 mmol) in acetic acid (171 mL) was treated with ethyl 3-oxocyclohexanecarboxylate (9.88 g, 58.1 mmol) at rt. The mixture was stirred at reflux for 2.5 h, then was cooled to rt and concentrated to afford a brown solid. This was suspended in EtOAc (20 mL) and the precipitate was collected by filtration, washed with EtOAc and air dried to provide 5-bromo-2-(ethoxycarbonyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid (11.46 g). The filtrate was concentrated and the residue was resuspended in EtOAc, the precipitate collected by filtration and dried to provide additional product (0.82 g) for a total of 12.28 g (58%). 1H NMR (400 MHz, DMSO-d6) δ 13.10 (br. s., 1H) 11.06 (s, 1H) 7.50 (d, J=8.13 Hz, 1H) 7.19 (d, J=8.13 Hz, 1H) 4.07-4.15 (m, 2H) 3.08-3.19 (m, 1H) 2.99-3.08 (m, 1H) 2.89-2.99 (m, 2H) 2.79-2.89 (m, 1H) 2.09-2.22 (m, 1H) 1.75-1.89 (m, 1H) 1.20 (t, J=7.14 Hz, 3H). Mass spectrum m/z 366.0, 368.0 (M+H)+.

reactant | 4-bromo-2-hydrazinylbenzoic acid hydrochloric acid salt | 58.1 mmol, 16.35 g | Cl.BrC1=CC(=C(C(=O)O)C=C1)NN
reactant | ethyl 3-oxocyclohexanecarboxylate | 58.1 mmol, 9.88 g | O=C1CC(CCC1)C(=O)OCC | C9H14O3
solvent | acetic acid | 171 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-2-(ethoxycarbonyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 11.46 g | BrC1=C2C=3CCC(CC3NC2=C(C=C1)C(=O)O)C(=O)OCC | C16H16BrNO4
